US04766115
1.5 g of 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile are added to a solution of sodium methylate in methanol prepared from 0.16 g of sodium and 20 ml of absolute methanol, and the mixture is heated to reflux temperature for 1 hour. The solvent is subsequently distilled off, the residue is treated with water and the resulting aqueous mixture is extracted three times with methylene chloride. The combined extracts are washed with water, dried over anhydrous sodium sulphate and evaporated. In this manner there is obtained methyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as an oil.

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | 1.5 g | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 0.16 g | [Na] | Na
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | methyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OC)=N | C16H16N2O
